US05322931
Boc-Lys(Boc)-His-D-Trp-Ala-OH, 33
A 2N aqueous sodium hydroxide solution (7.5 mL, 15 mmol) was added to a methanol (500 mL) and water solution (200 mL) containing Boc-Lys(Boc)-His-D-Trp-Ala-OMe (10.35 g, 13.7 mmol). After the reaction was allowed to stir overnight at room temperature, HPLC analysis indicated that less than 3% of the starting material remained. The resulting solution was concentrated in vacuo to a volume of approximately 200 mL. Water (100 mL) was added and the pH was adjusted to approximately 12 by addition of 2N sodium hydroxide (1 mL). The resulting solution was extracted with ethyl acetate (2×500 mL). The pH of the aqueous phase was then adjusted to 5 by addition of aqueous HCl which resulted in the precipitation of an oil. The aqueous phase was decanted away from the oil and the oil was then rinsed with water (2×50 mL). This oil was converted to a solid foam upon drying to constant weight in vacuo (5.62 g, 55%). 1H NMR indicated the presence of a single isomer in high purity.

reactant | sodium hydroxide | 15 mmol, 2N, 7.5 mL | [OH-].[Na+]
reactant | methanol | 500 mL | CO | CH4O
reactant | Boc-Lys(Boc)-His-D-Trp-Ala-OMe | 13.7 mmol, 10.35 g | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C37H54N8O9
solvent | water | 200 mL | O | H2O
product | Boc-Lys(Boc)-His-D-Trp-Ala-OH | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C36H52N8O9
